US07897792B2
p-Toluenesulfonic acid 2-fluoroethyl ester
1 g (15.6 mmol) of 2-fluoroethanol was dissolved in pyridine (15 mL), and 6.5 g (34.1 mmol) of p-toluenesulfonic acid was added thereto over a period of 30 minutes while stirring on ice. The mixture was stirred at 0° C. under nitrogen atmosphere for 3 hours, and after adding 35 mL of ice water to the reaction mixture, extraction was performed with 30 mL of ethyl acetate. The obtained organic layer was washed three times with 30 mL of 1N hydrochloric acid, and then further washed with sodium carbonate solution and saturated saline. The obtained organic layer was dried over anhydrous sodium sulfate, and the solvent was distilled away under reduced pressure to yield the title compound (3.19 g, 94%) as a colorless oil.

reactant | 2-fluoroethanol | 15.6 mmol, 1 g | FCCO | C2H5FO
reactant | p-toluenesulfonic acid | 34.1 mmol, 6.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | p-Toluenesulfonic acid 2-fluoroethyl ester | 3.19 g, 94% | FCCOS(=O)(=O)C1=CC=C(C=C1)C | C9H11FO3S
